US07968571B2
Crotonaldehyde (23.64 mL, 285.35 mmol), triethyl orthoformate (57.02 mL, 342.42 mmol) and ammonium nitrate (2.28 g, 28.54 mmol) were combined in 60 mL EtOH. After 22 h at ambient temperature, the reaction was diluted with EtOAc (60 mL) and washed with saturated sodium bicarbonate solution (40 mL). The aqueous layer was back extracted with EtOAc (20 mL). The combined organics were washed with brine (40 mL), dried over Na2SO4, filtered and concentrated in vacuo to give 36.5 g (89%) of 1,1-diethoxybut-2-ene. 1H NMR (CDCl3, 400 MHz) 5.84 (m, 1H); 5.54 (m, 1H); 4.82 (d, J=5.7 Hz, 1H); 3.64 (m, 2H); 3.49 (m, 2H); 1.73 (m, 3H); 1.21 (m, 6H).

reactant | Crotonaldehyde | 285.35 mmol, 23.64 mL | C(\C=C\C)=O | C4H6O
reactant | triethyl orthoformate | 342.42 mmol, 57.02 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium nitrate | 28.54 mmol, 2.28 g | [N+](=O)([O-])[O-].[NH4+]
solvent | EtOH | 60 mL | CCO | C2H6O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 1,1-diethoxybut-2-ene | 36.5 g, 89% | C(C)OC(C=CC)OCC | C8H16O2
